Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
pollen
 
Attending: ___.
 
Chief Complaint:
Chest pain and DOE
 
Major Surgical or Invasive Procedure:
___: Coronary angiogram, s/p drug eluding stent x 1 to left 
anterior descending artery (LAD)

 
History of Present Illness:
___ male with a history of glaucoma who presents with
chest pain.

Patient reports that for the last several months he has been
having some shortness of breath when climbing the hill to his
house.  He is also noticed some increased anxiety over the last 
6
months related to a project he is been working on.

He reports that yesterday he was working on cleaning his house
and was lifting some boxes of books when he began to not feel
well.  He reported some upper airway discomfort, some eustachian
tube discomfort and some abdominal discomfort.  He also started
feeling some chest pressure which he had never felt before and 
he
laid down to rest.  He described the pressure as ___,
substernal, nonradiating and relieved with rest.  Today he began
to have the same pressure with even less exertion than the day
prior and went to urgent clinic and was sent here for further
evaluation.  Prior to being transferred to the emergency
department he received a full dose aspirin.

In the ED initial vitals were: T 96.8 HR 59 BP 139/76 RR 18 O2
Sat 98% on RA
 
EKG: Sinus brady, normal intervals, normal axis, non specific ST
changes.
 
Labs/studies notable for: T .35, CKMB 35

Patient was given: heparin gtt

On the floor the patient remains chest pain free. 
 
Past Medical History:
Glaucoma
Childhood asthma
Upper airway spasms
?Colectomy
Allergic rhinitis
GERD
 
Social History:
___
Family History:
Father with CABG at age ___ at ___
 
Physical Exam:
Admission exam:
VS: 24 HR Data (last updated ___ @ 2333)
    Temp: 97.6 (Tm 97.6), BP: 104/88, HR: 53, RR: 18, O2 sat:
99%, O2 delivery: RA  
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP not elevated
CARDIAC:Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

Discharge exam:
VS:T98.5 BP 107/69 HR 55 RR 18  O2 sat 95% on room air 
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic.  
NECK: JVP not elevated
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

 
Pertinent Results:
Labs on Admit:
=================
___ 07:27PM 
WBC-9.2 RBC-4.52* Hgb-14.4 Hct-41.9 MCV-93 MCH-31.9 MCHC-34.4 
RDW-12.9 RDWSD-44.0 Plt ___ PTT-32.6 ___
Glucose-100 UreaN-16 Creat-1.2 Na-139 K-4.3 Cl-106 HCO3-24 
AnGap-9*
Calcium-9.1 Phos-3.4 Mg-2.3 Cholest-180
Triglyc-78 HDL-56 CHOL/HD-3.2 LDLcalc-108
%HbA1c-5.2 eAG-103

___ 07:27PM BLOOD CK-MB-35* MB Indx-9.7* cTropnT-0.35*
___ 07:27PM BLOOD CK(CPK)-360*
___ 03:20AM BLOOD CK-MB-45* cTropnT-0.57*
___ 10:20AM BLOOD CK-MB-45* cTropnT-0.99*
___ 06:41AM BLOOD cTropnT-0.81*

Discharge labs:
==================
___ 06:45AM BLOOD WBC-8.4 RBC-4.56* Hgb-14.3 Hct-41.7 
MCV-91 MCH-31.4 MCHC-34.3 RDW-12.9 RDWSD-42.8 Plt ___
___ 06:45AM BLOOD UreaN-20 Creat-1.3* Na-139 K-4.3 Cl-103 
HCO3-21* AnGap-15
___ 06:45AM BLOOD Mg-1.8

Testing:
==================
TTE (___): 
CONCLUSION:
The left atrial volume index is mildly increased. There is no 
evidence for an atrial septal defect by 2D/color Doppler. There 
is normal left ventricular wall thickness with a normal cavity 
size. There is mild-moderate left ventricular regional systolic 
dysfunction with hypokinesis to akinesis of the mid to distal 
septum, distal anterior wall (see schematic), distal lateral 
wall, and apical cap. No thrombus or mass is seen in the left 
ventricle. There is no resting left ventricular outflow tract 
gradient. No ventricular septal defect is seen. There is  
indeterminate diastolic function. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch is mildly dilated with a 
normal descending aorta diameter. The aortic valve leaflets (3) 
are mildly thickened. There is no aortic valve stenosis. There 
is mild [1+] aortic regurgitation. The mitral valve leaflets are 
mildly thickend and myxomatous with moderate posterior leaflet 
systolic prolapse. There is moderate [2+] mitral regurgitation. 
The pulmonic valve leaflets are normal. The tricuspid valve 
leaflets appear structurally normal. There is trivial tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is a very small pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild regional systolic dysfunction most consistent with single 
vessel coronary artery disease (LAD distribution). Moderate 
posterior leaflet mitral valve prolapse with moderate mitral 
regurgitation. Mild aortic regurgitation.
Coronary angiogram (___):

Coronary Description
LM:  The left main coronary artery is without significant 
disease.
LAD:  The left anterior descending coronary artery is with 90% 
mid after large diagonal followed by diffuse moderate disease. 
TIMI 2 flow is present.
Circ:  The circumflex coronary artery is with mild disease.
RCA:  The right coronary artery is with mild disease.

Interventional Details
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad hoc basis based on the 
coronary angiographic findings from the diagnostic portion of 
this procedure. A 6 ___ EBU3.5 guide provided adequate 
support. Heparin given and a therapeutic ACT confirmed. Crossed 
easily with a Scion Blue wire into the distal LAD. Predilated 
with a 3.0 mm balloon. Intracoronary OCT was performed to 
determine lesion length and sizing, revealing a 3.5mm distal 
reference and 5.0mm after diagonal bifurcation. Deployed a 3.5mm 
x 33mm DES at 11 atm. Postdilated with a 3.5mm NC balloon distal 
and mid, and 4.0mm NC balloon proximally. Post-PCI ___ revealed 
no dissection, excellent expansion, and focal area of 
malapposition (~3mm) of the proximal stent that extended back 
into the bifurcation. We post-dilated this area of the proximal 
stent further with a 5.0mm compliant balloon at 12 atm. Final 
angiography revealed normal flow, no dissection and 0% residual 
stenosis. The patient left the cath lab angina-free and in 
stable condition.

Findings
• Single vessel coronary artery disease.
• Successful ___-guided PCI with drug-eluting stent of the LAD 
coronary artery.
Recommendations
• ASA 81mg per day.
• Plavix 75mg/day

 
Brief Hospital Course:
Mr. ___ is a ___ male with a history of glaucoma who 
presented to ___ ED on ___ with chest pain and found to 
have NSTEMI, anterior changes on EKG, peak troponin 0 0.99. On 
___ he went to the cardiac catheterization lab and had a 
drug eluding stent placed to the left anterior descending artery 
(LAD) for a 90% blockage. 

CORONARIES: DES to LAD 90% lesion
PUMP: There is mild-moderate left ventricular regional systolic
dysfunction with hypokinesis to akinesis of the mid to distal
septum, distal anterior wall (see schematic), distal lateral
wall, and apical cap. No thrombus or mass is seen in the left
ventricle
RHYTHM: Normal sinus
 
#NSTEMI
He has been chest pain-free since admission.  Cath results as
above long mid LAD 90% lesion now S/P DES 3.5mm x 33mm 
- Plavix 75 mg daily 
- ___ consulted post NSTEMI, recommend outpatient cardiac rehab 
after cardiologist clearance  
- ASA 81mg daily
- Atorvastatin 80mg daily
- Metoprolol Succinate 25mg 
- Education regarding rationale and importance of medications
- Consider Ace inhibitor as outpt as has mild-mod LV 
dysfunction,
EF not quantified
- outpt cardiac rehab
- needs cardiologist, referral request made and ___ will 
contact him at home with an appointment. 

Discharged to home on ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
2. Lumigan 0.03% Ophth  (*NF*) 1 drop Other QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Lumigan 0.03% Ophth  (*NF*) 1 drop Other QHS 
1 drop both eyes at bedtime   
6.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
NSTEMI
Coronary artery disease, s/p PCI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

see discharge summary.

 
Discharge Instructions:
 Dear Mr. ___,
  
It was a pleasure taking care of you at the ___ 
___. 
 
WHY WAS I IN THE HOSPITAL?  
==========================  
- You presented to hospital with shortness of breath and chest 
pain with activity.  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- Your cardiac enzymes were consistent with a very small heart 
attack.
- You had a Cardiac Catheterization, in which 1 drug coated 
stent was placed to open a blockage in your left anterior 
descending (LAD) coronary artery, to improve blood flow to the 
heart.  

- Please continue your current medications, with the following 
changes:
 - START Aspirin 81mg daily, lifelong.
 - START Clopidigrel (Plavix) 75mg daily for at least 12 months 
or as directed by your cardiologist.
 - Start Atorvastatin 80mg daily, best absorbed when taken in 
the evening. This prevents further heart disease.
 - Start Metoprolol succinate 25mg daily, to optimize heart 
function. 

ATORVASTATIN  
Please take Atorvastatin 80mg, daily (best absorbed when taken 
in the evening), this medication not only reduces cholesterol, 
but has been shown to help decrease risk of heart attack in the 
future for people who have coronary artery (heart) disease.  

METOPROLOL  
This medication belongs to a class of medications known as Beta 
Blockers. Beta blockers slow the heart down and can lower blood 
pressure. They help reduce the amount of work the heart has to 
do, and can help to reduce risk of future heart attack.

 
It is very important to take all of your heart healthy 
medications. In particular, Aspirin and Clopidogrel (Plavix) 
keep the stents in the vessels of the heart open and help reduce 
your risk of having a future heart attack. If you stop these 
medications or miss ___ dose, a blood clot could form in your 
heart stent which could cause a life threatening heart attack. 
Please do not stop taking either medication without taking to 
your heart doctor, even if another doctor tells you to stop the 
medications.  
 
WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Take all of your medications as prescribed (listed below).  
- Follow up with your doctors as listed below  
- Follow activity restrictions and wrist site care, post cardiac 
catheterization
- It is strongly recommended that you attend a cardiac rehab 
program in the near future. A referral form was provided to you 
that lists the locations of these programs. Please bring this 
with you to your follow up visit with your cardiologist, and 
they will inform you when it is safe to begin a program. 

It was a pleasure participating in your care.  

If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

-Your ___ Care Team  
 
 
Followup Instructions:
___